US04591562
(3) Genetic transformation with the plasmid having phenylalanine producing gene.
The cell-suspension was transferred onto a minimum medium prepared by adding 5 μg/dl kanamycin, 10 mg/dl L-leucine, 10 mg/dl L-leucine, 10 mg/dl L-arginine, 100 mg/dl D, L-m-fluorophenylalanine and 2 g/dl agar to a basal minimum medium of pH 7.2 containing 0.6 g/dl KH2PO4, 1.4 g/dl K2HPO4, 0.2 g/dl (NH4)2SO4, 0.1 g/dl sodium citrate, 0.02 g/dl MgSO4.7H2O, and 0.5 g/dl glucose. After 3 days cultivation at 37° C., two colonies appeared on the agar-medium.

reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | sodium citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
